US07842713B2
Preparation of Intermediate 277d: Ethyl 4-({6-[(dimethylamino)carbonyl]pyridin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate
To a stirred solution of ethyl 4-({6-[(dimethylamino)carbonyl]-1-oxidopyridin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate (176 mg, 0.457 mmol) in 15 mL of acetic acid, was added powdered Fe while keeping the temperature at 70° C. for 2 hrs. LC-MS showed that the reaction was complete. The reaction was cooled to room temperature, and the insoluble material was filtered. The mother liquor was diluted with EtOAc, washed with NaHCO3, brine, and dried over Na2SO4, and concentrated. The crude product was introduced into a silica gel column and eluted with MeOH/CHCl3 (2/98 to 5/95) to provide the product (135 mg, 85% yield) as colorless oil. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.40 (t, J=7.16 Hz, 3 H) 2.47 (s, 3 H) 3.15 (d, 6 H) 4.39 (q, J=7.03 Hz, 2 H) 6.25 (s, 1 H) 7.30 (d, J=2.45 Hz, 1 H) 7.55-7.64 (m, 1 H) 7.64-7.76 (m, 1 H) 8.00 (s, 1 H) 8.38 (s, 1 H); LC-MS (ESI)+m/z=369.00 (M+H)+.

reactant | ethyl 4-({6-[(dimethylamino)carbonyl]-1-oxidopyridin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate | 0.457 mmol, 176 mg | CN(C(=O)C1=CC=C(C=[N+]1[O-])OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC)C | C20H20N2O6
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | Fe | [Fe] | Fe
product | Ethyl 4-({6-[(dimethylamino)carbonyl]pyridin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate | 135 mg, 85% yield | CN(C(=O)C1=CC=C(C=N1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC)C | C20H20N2O5
